US04014920
6.8 g (0.035 mol) of p-(2-methoxycarbonylaminovinyl)-acetoxybenzene are suspended in 100 ml of absolute methanol, a solution of 1.9 g (0.035 mol) of sodium methoxide in 15 ml of absolute methanol is added and thereafter the mixture is warmed to 50°C for 15 minutes. It is then evaporated to dryness in vacuo. The resulting, crude phenolate of p-(2-methoxycarbonylaminovinyl)-phenol is heated with 35 ml of epichlorohydrin to the boil for 24 hours under a reflux condenser, whilst stirring. Thereafter, the excess epichlorohydrin is removed by vacuum distillation. The residue is partitioned between water and methylene chloride and the organic phase is separated off, dried over sodium sulphate and evaporated. After crystallisation of the crude product thus obtained, from acetone-ether, 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane of melting point 125°-126°C is obtained.

reactant | p-(2-methoxycarbonylaminovinyl)-acetoxybenzene | 0.035 mol, 6.8 g | COC(=O)NC=CC1=CC=C(C=C1)OC(C)=O | C12H13NO4
reactant | sodium methoxide | 0.035 mol, 1.9 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane | COC(=O)NC=CC1=CC=C(OCC2CO2)C=C1 | C13H15NO4
